US08258160B2
Synthesis of 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-5-methyl-1H-1,2,3-triazole-4-carboxylic acid
Following the procedure as described in Example 17, making variations as necessary to replace ethyl 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-1H-1,2,3-triazole-4-carboxylate with ethyl 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-5-methyl-1H-1,2,3-triazole-4-carboxylate, the title compound was obtained as a white solid in 73% yield (0.24 g): MS (ES+) m/z 358.3 (M+1).

reactant | ethyl 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-1H-1,2,3-triazole-4-carboxylate | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)C(=O)OCC)C | C17H17N5O3S
reactant | ethyl 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-5-methyl-1H-1,2,3-triazole-4-carboxylate | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1C)C(=O)OCC)C | C18H19N5O3S
product | 1-(5-(benzylcarbamoyl)-4-methylthiazol-2-yl)-5-methyl-1H-1,2,3-triazole-4-carboxylic acid | 73% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1C)C(=O)O)C | C16H15N5O3S
